US04259489
2,3-Dicyano-5-chloro-6-p-tolylpyrazine (1.00 g; 0.0039 mole) and 0.46 g (0.0078 mole) of n-propylamine were worked up in the same way as in Example 13, and then recrystallized from toluene to afford 0.80 g (yield 74%) of 2,3-dicyano-5-n-propylamino-6-p-tolylpyrazine.

reactant | 2,3-Dicyano-5-chloro-6-p-tolylpyrazine | 0.0039 mole, 1.00 g | C(#N)C1=NC(=C(N=C1C#N)Cl)C1=CC=C(C=C1)C | C13H7ClN4
reactant | n-propylamine | 0.0078 mole, 0.46 g | C(CC)N | C3H9N
product | 2,3-dicyano-5-n-propylamino-6-p-tolylpyrazine | 0.80 g, yield 74% | C(#N)C1=NC(=C(N=C1C#N)NCCC)C1=CC=C(C=C1)C | C16H15N5
